US07572809B2
Similar procedure as described in example 317 was used, starting from dimethyl-amine hydrochloride and 6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-1-carboxylic acid to give 6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-1-carboxylic acid dimethylamide. LC-MS: m/e 326 (MH+).

reactant | dimethyl-amine hydrochloride | Cl.CNC
reactant | 6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-1-carboxylic acid | COC=1C=C2C=C(N=C(C2=CC1)C(=O)O)NC1=NNC(=C1)C | C15H14N4O3
product | 6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinoline-1-carboxylic acid dimethylamide | CN(C(=O)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C)C | C17H19N5O2
